US05998433
c) Synthesis of methyl 6-benzyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate
To a solution of 0.683 g (3.202 mmol) of 6-benzyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 30 ml of tetrahydrofuran, 4.0 ml (6.4 mmol) of 1.6 M n-butyl lithium in hexane was added under ice-cooling, followed by stirring for 0.5 hours. After the reaction mixture was cooled to -78° C., crushed dry ice was added; while the mixture was stirred vigorously, the mixture was allowed to warm to room temperature. After the solvent was distilled off under reduced pressure, the residue was dissolved in 50 ml of about 10% hydrogen chloride in methanol, followed by overnight stirring at room temperature. After the solvent was distilled off under reduced pressure, aqueous sodium hydrogen carbonate was added, followed by 3 extractions with dichloromethane. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to yield the desired product.

reactant | 6-benzyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 3.202 mmol, 0.683 g | C(C1=CC=CC=C1)N1CC2=C(CC1)C=CO2 | C14H15NO
reactant | n-butyl lithium | 6.4 mmol, 1.6 M, 4.0 ml | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | methyl 6-benzyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine-2-carboxylate | C(C1=CC=CC=C1)N1CC2=C(CC1)C=C(O2)C(=O)OC | C16H17NO3
